US04041032
To 8 ml. of toluene were added 0.8 g. of ethyl 5-amino-6-chloro-3-ethoxypyrazine-2-carboxylate and 0.8 g. of N,N-diethylethylenediamine and the mixture was refluxed for 20 hours. After the reaction was over, the reaction mixture was cooled to room temperature and then extracted with 20 ml. of a 1 N aqueous hydrochloric acid solution. The extract was neutralized with dilute aqueous ammonia under ice-cooling and then extracted three times each time with 30 ml. of chloroform. The extracts were combined, washed with water dried, and then the solvent was distilled off under reduced pressure. By washing the residue obtained with 30 ml. of n-hexane, 0.53 g. of colorless crystals of N-(2-diethylaminoethyl)-5-amino-6-chloro-3-ethoxypyrazine-2-carboxamide was obtained. The colorless acicular crystals obtained by recrystallizing the product from a mixture of benzene and n-hexane melted at 147°-148° C.

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | ethyl 5-amino-6-chloro-3-ethoxypyrazine-2-carboxylate | NC=1N=C(C(=NC1Cl)C(=O)OCC)OCC | C9H12ClN3O3
reactant | N,N-diethylethylenediamine | C(C)N(CCN)CC | C6H16N2
solvent | n-hexane | CCCCCC | C6H14
product | N-(2-diethylaminoethyl)-5-amino-6-chloro-3-ethoxypyrazine-2-carboxamide | C(C)N(CCNC(=O)C1=NC(=C(N=C1OCC)N)Cl)CC | C13H22ClN5O2
